US08008334B2
b) 4-(7-Hydroxyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-benzonitrile
A solution of 8.18 mmol of 4-iodobenzonitrile [3058-39-7] in 20 ml of tetrahydrofuran at −20° C. is admixed dropwise with 8.18 mmol of isopropylmagnesium chloride (2M in tetrahydrofuran) and the reaction mixture is subsequently stirred for 15 minutes. A mixture of 4.09 mmol of 5,6-dihydropyrrolo[1,2-c]imidazol-7-one [426219-43-4] in 5 ml of tetrahydrofuran is added. After 1 hour the reaction mixture is poured into 1:1 1N HCl/dichloromethane and the phases are separated. The aqueous phase is rendered basic with saturated sodium hydrogen carbonate solution, stirred thoroughly, extracted with tert-butyl methyl ether (in order to separate unreacted ketone) and then extracted with dichloromethane (3×). The combined dichloromethane phases are dried with sodium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F) as a white foam. Rf=0.20 (dichloromethane/ammonia (2M in EtOH) 95:5), Rt=3.81 (Gradient I).

reactant | 4-iodobenzonitrile | 8.18 mmol | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | isopropylmagnesium chloride | 8.18 mmol, 2M | C(C)(C)[Mg]Cl
reactant | 5,6-dihydropyrrolo[1,2-c]imidazol-7-one | 4.09 mmol | C1=C2N(C=N1)CCC2=O | C6H6N2O
reactant | HCl dichloromethane | 1N | Cl.ClCCl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(7-Hydroxyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-benzonitrile | OC1(CCN2C=NC=C21)C2=CC=C(C#N)C=C2 | C13H11N3O
